2105-12-29 07:24:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint: Shortness of breath
   24 Hour Events:
   - Went for CT head overnight, showed no definite abnormality
   - Today feels much better than previous, still complains of cough and
   hoarseness but improving.  No chest pain, some shortness of breath.
 NASAL SWAB - At [**2105-12-28**] 08:40 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tamiflu - [**2105-12-28**] 09:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2105-12-29**] 04:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-29**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 116 (83 - 116) bpm
   BP: 123/61(73) {83/36(47) - 123/61(73)} mmHg
   RR: 24 (22 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  2,732 mL
                                                                    790 mL
   PO:
             TF:
   IVF:
                                                                    232 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    450 mL
   Urine:
                                                                  1,150 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,582 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   GENERAL: Pleasant, thin elderly woman with weak voice and frequent wet
   cough
   HEENT:  Clear OP and nares, MM dry.
   CARDIAC:  Borderline tachycardia, regular rhythm.  Normal S1, S2. No
   murmurs, rubs or [**Last Name (un) 2911**].  JVP not elevated.
   LUNGS:  Tachypneic with increased work of breathing.  Coarse crackles
   at bases with some expiratory wheezing.  Right sided increased crackles
   over mid-lung.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 1+ DPs.
   NEURO: Alert and oriented, finger to nose with some difficulty but
   symmetric and consistent
   Labs / Radiology
   129 K/uL
   9.1 g/dL
   117 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.2 mEq/L
   16 mg/dL
   111 mEq/L
   141 mEq/L
   27.1 %
   10.3 K/uL
        [image002.jpg]
   Hct 35.4 on admission, repeat 31.8, baseline
                            [**2105-12-29**]  01:37 AM
   WBC
   10.3
   Hct
   27.1
   Plt
   129
   Cr
   0.8
   TropT
   <0.01
   Glucose
   117
   Other labs: CK / CKMB / Troponin-T:132/3/<0.01, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   [**12-28**] Influenza DFA pending
   [**12-28**] Blood cx pending x2
   CTA Chest [**12-28**]
   1. No pulmonary embolus or acute aortic abnormality.
   2. Multifocal consolidation in the right middle and right lower lobe,
   likely
   infection, although underlying malignancy can not be excluded. Given
   history
   of lung cancer, recommend followup imaging to resolution to exclude
   underlying
   lesion.
   3. Increased number of anterior mediastinal lymph nodes, not enlarged
   by size
   criteria, but increased in number.
   4. Likely small amount of sludge layering in the gallbladder without
   acute
   cholecystitis.
   CT Head prelim read:
   No definite abnormality. Left cerebellar tubular density likely vessel.
   Note
   that MRI is more sensitive for metastases and is recommended if
   symptoms
   persist.
   Assessment and Plan
   73yo woman with recent lobectomy for NSCLC presenting with likely
   aspiration pneumonia.
   # Shortness of breath and cough: Most likely pneumonia given CT
   findings and history of cough and weakness.  Could also have developed
   aspiration pneumonia in the setting of nasuea and vomiting.  Underlying
   lung function not entirely normal given emphysema on lung biopsy and
   that she is s/p lobectomy.  Also consistent with influenze given
   weakness, n/v, and cough.
   - ceftriaxone and levofloxacin (day 1 = [**12-28**]) x 7-10 days
   - FU urine legionella
   - Continue tamiflu pending influenza swab
   - Atrovent and albuterol nebs prn
   - Send sputum culture
   - Need to follow-up resolution of CT chest to resolution of pneumonia
   to exclude malignancy, have emailed oncologists regarding appoprioate
   follow-up
   # Hypotension:  Close to baseline, but likely worse [**2-16**] dehydration.
   She is somewhat dehydrated on exam but has been volume resuscitated.
   Now BP increased and stable, patient feeling improved.
   - Will hold off on further IVF for now and encourage PO intake but can
   supplement with IVF prn
   # Nausea/vomiting/diarrhea: Could likely be viral gastroenteritis (such
   as norovirus) or possibly influenza.  Also was possibly food
   poisoning/toxin ingestion.  Increased intracranial pressure less likely
   given normal CT.  Cardiac ischemia can also present with nausea,
   although EKG is reassuring and cardiac biomarkers negative.
   Pancreatitis not likely due to normal amylase and lipase.
   - FU final head CT read
   - if head CT is negative, may need MRI with contrast as outpatient,
   will defer to oncology
   - lipase and amylase wnl
   - Add stool studies if develops diarrhea
   - zofran prn for nausea
   # Acute renal failure:  Baseline Cr 0.7, creatinine now resolved to
   near baseline with IVF overnight, likely was secondary to dehydration
   and hypotension.
   - IVF prn for UOP and blood pressure
   - avoid renally toxic medications
   - monitor BP
   - Check pm lytes today as needed significant repletion last night
   # Anemia with baseline Hct 32: Likely hemoconcentrated, on admission,
   now with significant hct drop from 35
27, likely somewhat dilutional.
   Was guaiac negative on rectal exam
   - Check pm Hct
   - Maintain active type and screen
   - Guaiac all stools
   # Lung Cancer s/p lobectomy:
   - have contact[**Name (NI) **] oncology providers to make them aware of admission
   - not currently receiving active treatment
   # Hyperlipidemia:  continue statin
   # Osteoporosis:  continue actonel
   # Anxiety:  ativan prn
   ICU Care
   Nutrition: Clear liquids, will advance as tolerated today
   Glycemic Control:
   Lines:
   18 Gauge - [**2105-12-28**] 08:58 PM
   20 Gauge - [**2105-12-28**] 08:58 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:
   VAP:
   Comments: Bowel regimen senna/colace prn
   Communication:  Comments: [**First Name8 (NamePattern2) 845**] [**Known lastname 7492**] [**Telephone/Fax (1) 9887**]
   Code status: Full code, confirmed
   Disposition: ICU pending stabilization

2105-12-30 07:07:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint: Shortness of breath
   24 Hour Events:
   -flu swab neg, tamiflu stopped
   -precautions d/c'd
   -urine legionella ag neg
   -PM lytes and hct: Hct 30 (stable).  repleted K and phos
   -per onc: pt still needs to f/u and do outpatient scans to make sure
   this episode is resolved.  they will set up MRI if needed.  [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 6369**]
   will come to see her daily, has f/u appt in [**Month (only) **].  No needed to come
   to OMED when ready to leave ICU.
   - Had tachycardia to the 120
s this morning during rounds
   - Patient states  breathing is improved from previous but still very
   dyspneic.  Complains of persistent right-sided chest pain.  Had 3
   episodes of diarrhea last night and didn
t sleep well.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-12-29**] 08:00 AM
   Tamiflu - [**2105-12-29**] 08:00 AM
   Levofloxacin - [**2105-12-29**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-30**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.1
C (97
   HR: 89 (85 - 116) bpm
   BP: 119/64(78) {100/44(59) - 165/103(106)} mmHg
   RR: 21 (19 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,850 mL
                                                                     70 mL
   PO:
                                                                    440 mL
             TF:
   IVF:
                                                                  1,170 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                    800 mL
   Urine:
                                                                  2,100 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                   -730 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   GENERAL: Pleasant, thin elderly woman with weak voice and frequent wet
   cough
   HEENT:  Clear OP and nares, MM dry.
   CARDIAC:  Regular rate and rhythm.  Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 2911**].  JVP not elevated.
   LUNGS:  Tachypneic with increased work of breathing.  Rhoncherous
   bilaterally across lung fields, worse at right mid-lung.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 1+ DPs.
   Labs / Radiology
   172 K/uL
   10.2 g/dL
   94 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   8 mg/dL
   110 mEq/L
   139 mEq/L
   30.0 %
   10.5 K/uL
        [image002.jpg]
                            [**2105-12-29**]  01:37 AM
                            [**2105-12-29**]  03:24 PM
                            [**2105-12-30**]  04:58 AM
   WBC
   10.3
   10.5
   Hct
   27.1
   30.0
   30.0
   Plt
   129
   172
   Cr
   0.8
   0.7
   0.6
   TropT
   <0.01
   Glucose
   117
   144
   94
   Other labs: CK / CKMB / Troponin-T:132/3/<0.01, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   [**12-28**] Blood cx pending
   [**12-28**] Influenza A and B DFA negative
   [**12-28**] Urine legionella antigen negative
   [**12-29**] Urine cx pending
[**12-29**] Sputum:
   GRAM STAIN (Final [**2105-12-29**]):
      >25 PMNs and >10 epithelial cells/100X field.
      Gram stain indicates extensive contamination with upper respiratory
      secretions. Bacterial culture results are invalid.
      PLEASE SUBMIT ANOTHER SPECIMEN.
   RESPIRATORY CULTURE (Final [**2105-12-29**]):
      TEST CANCELLED, PATIENT CREDITED.
   Source: Catheter
   Other Urine Chemistry:
   Creat:34
   Na:85
   Source: Catheter
   Color
   Straw
   Appear
   Clear
   SpecGr
   1.011
   pH
   5.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Neg
   Bld
   Sm
   Nitr
   Neg
   Prot
   30
   Glu
   70
   Ket
   Neg
   RBC
   1
   WBC
   3
   Bact
   Few
   Yeast
   None
   Epi
   <1
   Other Urine Counts
   CastGr: 1
   Mucous: Rare
   [**12-29**] CT Head final read: No acute hemorrhage or mass effect.
   Assessment for metastases is not complete on the present study and if
   there is concern for the same, MR [**Name13 (STitle) **] can be considered if there is no
   contra-indication.
   [**12-30**] ECG: Atrial flutter with variable block, ventricular rate 120
   Assessment and Plan
   73yo woman with recent lobectomy for NSCLC presenting with likely
   aspiration pneumonia.
   # Shortness of breath and cough: Most likely pneumonia given CT
   findings and history of cough and weakness.  Could also have aspirated
   in the setting of nausea and vomiting.  Underlying lung function not
   entirely normal given emphysema on lung biopsy and that she is s/p
   lobectomy.  Less likely influenza given negative flu swab.
   - ceftriaxone and levofloxacin (day 1 = [**12-28**]) x 10 days  (today is day
   3 of 10)
   - Urine legionella negative
   - Have stopped tamiflu and respiratory precautions
   - Atrovent and albuterol nebs prn
   - Send additional sputum culture
   - Need to follow-up resolution of CT chest to resolution of pneumonia
   to exclude malignancy, have alerted oncologists regarding appoprioate
   follow-up
   # Atrial flutter: Has history of pAfib in the past, but has not
   required beta blockers for quite some time.  Feel that she may be
   volume depleted causing atrial flutter, although labs not consistent
   with this picture.
   - Will give 1L NS now and then reassess
   - [**Month (only) 11**] need rate control with beta blockers, can try 5mg IV metoprolol
   if needed
   # Hypotension:  At baseline, likely was worse [**2-16**] dehydration.  She was
   somewhat dehydrated on exam but has been volume resuscitated.  Now BP
   increased and stable, patient feeling improved.
   - Will hold off on further IVF for now and encourage PO intake but can
   supplement with IVF prn
   # Nausea/vomiting/diarrhea: Could likely be viral gastroenteritis (such
   as norovirus), less likely influenza.  Also was possibly food
   poisoning/toxin ingestion although this likely due to timecourse.
   Increased intracranial pressure less likely given normal CT.  Cardiac
   ischemia can also present with nausea, although EKG is reassuring and
   cardiac biomarkers negative.  Pancreatitis not likely due to normal
   amylase and lipase.  Still having some diarrhea.
   - may need MRI with contrast as outpatient, will defer to outpatient
   oncology
   - lipase and amylase wnl
   - FU C diff for diarrhea
   - Zofran prn for nausea
   # Acute renal failure:  Baseline Cr 0.7, creatinine now resolved to
   baseline with IVF, likely was secondary to dehydration and hypotension.
   - IVF prn for UOP and blood pressure
   - avoid renally toxic medications
   - monitor BP
   # Anemia with baseline Hct 32: Likely hemoconcentrated on admission,
   with hct drop from 35
27, likely somewhat dilutional, now near baseline
   and stable at 30.  Was guaiac negative on rectal exam
   - Guaiac all stools
   - Monitor daily Hct
   # Lung Cancer s/p lobectomy: Have contact[**Name (NI) **] oncology providers to make
   them aware of admission, are following and she has outpatient follow-up
   already scheduled
   - not currently receiving active treatment
   # Hyperlipidemia:  continue statin
   # Osteoporosis:  continue actonel
   # Anxiety:  ativan prn
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2105-12-28**] 08:58 PM
   20 Gauge - [**2105-12-28**] 08:58 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:
   VAP:
   Comments: Bowel regimen senna/colace prn
   Communication:  Comments: [**First Name8 (NamePattern2) 845**] [**Known lastname 7492**] [**Telephone/Fax (1) 9887**]
   Code status: Full code, confirmed
   Disposition: ICU for now as still dyspneic and now with Aflutter with
   RVR

2105-12-31 07:26:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint: Shortness of Breath
   24 Hour Events:
   - HR to 140s in am rounds, appeared to be atrial flutter with variable
   conduction, gave 1L NS which failed to bring down heart rate so started
   Metoprolol 12.5 po TID which was later increased to 25mg po TID for
   Aflutter with RVR
   - In evening, HR up to 170 while patient attempting to get up for
   bathroom unsupervised, settled back into bed and given 5 mg IV
   metoprolol with HR down to 90s following.  Multiple episodes of
   transient increased to HR of 160s afterwards. Got another IV 5mg X1,
   got 25mg m/n dose at 10pm, and put in for CXR given poor airway
   movement.  Showed worsened RML/RLL consolidation, ?on LLL too.  Asked
   for acapella valve, incentive spirometer sputum sample.
   - This morning, she reports feeling slightly better every day, able to
   talk in complete sentences.  She slept through the night, had one
   episode of diarrhea this morning.
 EKG - At [**2105-12-30**] 08:25 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tamiflu - [**2105-12-29**] 08:00 AM
   Levofloxacin - [**2105-12-29**] 10:00 AM
   Ceftriaxone - [**2105-12-30**] 08:30 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2105-12-30**] 10:13 PM
   Lorazepam (Ativan) - [**2105-12-30**] 10:15 PM
   Heparin Sodium (Prophylaxis) - [**2105-12-30**] 11:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-31**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 89 (86 - 162) bpm
   BP: 100/57(68) {77/48(61) - 127/81(102)} mmHg
   RR: 24 (16 - 30) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 45 kg (admission): 46 kg
   Height: 61 Inch
                  Total In:
                                                                  1,990 mL
                  PO:
                                                                    820 mL
                  TF:
   IVF:
                                                                  1,170 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    200 mL
   Urine:
                                                                  1,850 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    140 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   GENERAL: Pleasant, thin elderly woman with raspy voice, improved from
   previous, and frequent wet cough
   HEENT:  Clear OP and nares, MM dry.
   CARDIAC:  Regular rhythm heard this am with occasional irregularity,
   slightly tachycardic.  Normal S1, S2. No murmurs, rubs or [**Last Name (un) 2911**].  JVP
   not elevated.
   LUNGS:  Tachypneic with some increased work of breathing.  Rhoncherous
   bilaterally across lung fields, with some inspiratory deep wheezes
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 1+ DPs.
   Labs / Radiology
   196 K/uL
   9.5 g/dL
   91 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   8 mg/dL
   106 mEq/L
   137 mEq/L
   27.7 %
   7.2 K/uL
        [image002.jpg]
                            [**2105-12-29**]  01:37 AM
                            [**2105-12-29**]  03:24 PM
                            [**2105-12-30**]  04:58 AM
                            [**2105-12-31**]  05:20 AM
   WBC
   10.3
   10.5
   7.2
   Hct
   27.1
   30.0
   30.0
   27.7
   Plt
   129
   172
   196
   Cr
   0.8
   0.7
   0.6
   0.5
   TropT
   <0.01
   Glucose
   117
   144
   94
   91
   Other labs: CK / CKMB / Troponin-T:132/3/<0.01, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   [**12-28**] Blood cx pending
   [**12-29**] Urine cx negative
[**12-29**] Sputum cancelled, repeat ordered
CXR from last night in OMR
   Assessment and Plan
   73 year old woman with recent lobectomy for NSCLC presenting with
   likely aspiration pneumonia.
   # Shortness of breath and cough: Most likely pneumonia given CT
   findings and history of cough and weakness.  Could also have aspirated
   in the setting of nausea and vomiting.  Underlying lung function not
   entirely normal given emphysema on lung biopsy and that she is s/p
   lobectomy
   - Continue ceftriaxone and levofloxacin (day 1 = [**12-28**]) x 10 days
   (today is day 4 of 10)
   - Urine legionella negative
   - Have stopped tamiflu and respiratory precautions, ruled out flu
   - Atrovent and albuterol nebs prn
   - Send additional sputum culture
   - Need to follow-up resolution of CT chest to resolution of pneumonia
   to exclude malignancy, oncology is aware and will follow-up scans
   # Atrial flutter: Has history of pAfib in the past, but has not
   required beta blockers for quite some time.  Feel likely related to new
   lung pathology.  Given 5mg IV metoprolol x2 over last 24 hours with
   good effect.
   - Continue metoprolol 25mg po TID, appears well rate-controlled with HR
   in the 90
   - Will repeat IV dosing as needed for rate control
   - Can consider cardioversion in this patient when rate controlled
   - Need to address issue of anticoagulation: CHADS2 score is 0, but
   likely should be taking aspirin daily
   # Hypotension:  At baseline, likely was worse [**2-16**] dehydration.  She was
   somewhat dehydrated on exam on admission but has been volume
   resuscitated.  Now BP increased and stable, patient feeling improved.
   - Encourage PO intake
   # Nausea/vomiting/diarrhea: Could likely be viral gastroenteritis (such
   as norovirus), less likely influenza.  Also was possibly food
   poisoning/toxin ingestion although this likely due to timecourse.
   Increased intracranial pressure less likely given normal CT.  Cardiac
   ischemia can also present with nausea, although EKG is reassuring and
   cardiac biomarkers negative.  Pancreatitis not likely due to normal
   amylase and lipase.  Still having some diarrhea.
   - may need MRI with contrast as outpatient, will defer to outpatient
   oncology
   - FU C diff for diarrhea, will be sent this am
   - Zofran prn for nausea
   # Acute renal failure:  Baseline Cr 0.7, creatinine now resolved to
   baseline with IVF, likely was secondary to dehydration and hypotension.
   # Anemia with baseline Hct 32: Likely hemoconcentrated on admission,
   with hct drop from 35
27, likely somewhat dilutional, now stable
   between 27 and 30.  Was guaiac negative on rectal exam
   - Guaiac all stools
   - Monitor daily Hct
   # Lung Cancer s/p lobectomy: Have contact[**Name (NI) **] oncology providers to make
   them aware of admission, are following and she has outpatient follow-up
   already scheduled
   - not currently receiving active treatment
   # Hyperlipidemia:  continue statin
   # Osteoporosis:  continue actonel
   # Anxiety:  ativan prn
   ICU Care
   Nutrition: Regular Diet
   Glycemic Control:
   Lines: 22 Gauge - [**2105-12-30**] 12:45 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:
   VAP:
   Comments: Bowel regimen senna/colace prn
   Communication:  Comments: [**First Name8 (NamePattern2) 845**] [**Known lastname 7492**] [**Telephone/Fax (1) 9887**]
   Code status: Full code, confirmed
   Disposition: call out to HMED today as clinically improving and has
   been stable since ICU admission